US05153203
7-(1-Methyl-4-piperidyloxy)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (Compound No. 23)
6,7,8-Trifluoro-1-cyclopropyl-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (570 mg) was reacted in a similar manner to Example 9. Acetic acid (480 mg) was added and DMF was distilled off under reduced pressure. The residue was purified by columnchromatography on silica gel, whereby 160 mg of the title compound was obtained.

reactant | 6,7,8-Trifluoro-1-cyclopropyl-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 570 mg | FC=1C=C2C(C(=CN(C2=C(C1F)F)C1CC1)C(=O)O)=O | C13H8F3NO3
solvent | Acetic acid | 480 mg | C(C)(=O)O | C2H4O2
product | 7-(1-Methyl-4-piperidyloxy)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 160 mg | CN1CCC(CC1)OC1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C19H20F2N2O4
